US08981084B2
tert-Butyl 4-(5-cyanopyridin-2-yl)-3,3-dimethylpiperazine-1-carboxylate
This compound was synthesized from 6-bromonicotinonitrile and tert-butyl 3,3-dimethylpiperazine-1-carboxylate as described for example 43 step 1 (0.12 g, yield 43%). 1H NMR (300 MHz, CDCl3) δ 8.42 (d, J=1.5 Hz, 1H), 7.59 (dd, J=9.0 Hz, J=2.2 Hz, 1H), 6.64 (d, J=9.0 Hz, 1H), 3.89-3.82 (m, 2H), 3.58-3.51 (m, 4H), 1.52 (s, 6H), 1.49 (s, 9H). MS (ESI) m/z: Calculated for C17H24N4O2: 316.19. found: 217.2 (M+H-Boc)+

reactant | 6-bromonicotinonitrile | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | tert-butyl 3,3-dimethylpiperazine-1-carboxylate | CC1(CN(CCN1)C(=O)OC(C)(C)C)C | C11H22N2O2
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
product | tert-Butyl 4-(5-cyanopyridin-2-yl)-3,3-dimethylpiperazine-1-carboxylate | yield 43% | C(#N)C=1C=CC(=NC1)N1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C17H24N4O2
